US06127341
(2S)-5-(Acetylamino)-2-(tert-butoxycarbonylamino)hexanoic acid (purchased at Bachem, 5.0 g, 17.34 mmol) and 1-hydroxybenzotriazole hydrate (2.65 g, 17.34 mmol) were subsequently dissolved in dichloromethane (40 ml) and N,N-dimethylformamide (20 ml). The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (3.32 g, 17.34 mmol) was added. The reaction mixture was stirred at 0° C. for 20 min. A 8.0 M solution of methylamine in ethanol (13 ml, 104 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (300 ml) and washed with a 10% aqueous solution of sodium hydrogensulfate (300 ml). The aquoeus phase was extracted with ethyl acetate (2×150 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (300 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (65 g), using dichloromethane/methanol (10:1) as eluent to give 792 mg of ((1S)-5-(acetylamino)-1-(methylcarbamoyl)pentyl)carbamic acid tert-butyl ester.

reactant | (2S)-5-(Acetylamino)-2-(tert-butoxycarbonylamino)hexanoic acid | 17.34 mmol, 5.0 g | C(C)(=O)NC(CC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C | C13H24N2O5
reactant | 1-hydroxybenzotriazole hydrate | 17.34 mmol, 2.65 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 17.34 mmol, 3.32 g | Cl.CN(CCCN=C=NCC)C
reactant | methylamine | CN | CH5N
reactant | ethanol | 104 mmol, 13 ml | C(C)O | C2H6O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | ((1S)-5-(acetylamino)-1-(methylcarbamoyl)pentyl)carbamic acid tert-butyl ester | 792 mg | C(C)(C)(C)OC(N[C@@H](CCCCNC(C)=O)C(NC)=O)=O | C14H27N3O4
